US06809097B1
Potassium carbonate (870 mg, 6.3 mmol) was added to a solution of (4-fluoro-5-hydroxy-2-methylphenyl) methyl carbonate (1.2 g, 6 mmol) in methanol (20 ml) and the mixture was heated at 50° C. for 1 hour. The mixture was allowed to cool, adjusted to pH3 with hydrochloric acid and extracted with ethyl acetate. The combined extracts were washed with brine, dried (MgSO4) and the volatiles removed by evaporation. The residue was purified by column chromatography eluting with petroleum ether/ethyl acetate (7/3) to give 2-fluoro-5-hydroxy-4-methylphenol (603 mg, 70%) as a yellow solid.

reactant | Potassium carbonate | 6.3 mmol, 870 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (4-fluoro-5-hydroxy-2-methylphenyl) methyl carbonate | 6 mmol, 1.2 g | C(OC1=C(C=C(C(=C1)O)F)C)(OC)=O | C9H9FO4
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 2-fluoro-5-hydroxy-4-methylphenol | 603 mg, 70% | FC1=C(C=C(C(=C1)C)O)O | C7H7FO2
